US04859670
2.26 g (12.7 mmol) of NBS and 3 mg of dibenzoyl peroxide were added to a solution of 2.73 g (12.5 mmol) of 4-(4-chlorophenyl)-2,5-dimethylpyrimidine in 48 ml of CCl4, and the mixture was refluxed for 5 minutes with stirring and irradiation (cf. Example 25). The NBS had then been converted into succinimide. This was filtered off at room temperature through a filtration aid and washed with CCl4, and the filtrate was evaporated in vacuo. The residue was dissolved in about 60 ml of diisopropyl ether/n-pentane 1:1, the slightly turbid solution was clarified using kieselguhr and again filtered under suction, and the clear filtrate was evaporated in an oil-pump vacuum to constant weight. According to the 1H NMR spectrum, the residue (3.4 g) comprised 69.5% purity 5-bromomethyl-4-(4-chlorophenyl)-2-methylpyrimidine (=63.5% yield). This bromomethyl compound was used in this form for the reaction with 1-(4-hydroxyphenyl)piperazine (cf. Example 23, No. 5.19).

reactant | NBS | 12.7 mmol, 2.26 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | dibenzoyl peroxide | 3 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 4-(4-chlorophenyl)-2,5-dimethylpyrimidine | 12.5 mmol, 2.73 g | ClC1=CC=C(C=C1)C1=NC(=NC=C1C)C | C12H11ClN2
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
solvent | CCl4 | 48 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-4-(4-chlorophenyl)-2-methylpyrimidine | 63.5% yield | BrCC=1C(=NC(=NC1)C)C1=CC=C(C=C1)Cl | C12H10BrClN2
